US06211215B1
To 2-(2-thienyl)-5-benzoxazolylmethanol (600 mg) was added thionyl chloride (3 ml) at 0° C., stirred for 3 hours. The reaction mixture was concentrated, which was neutalized with saturated aqueous sodium bicarbonate, and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4), and concentrated under reduced pressure to give crystals of 5-chloromethyl-2-(2-thienyl) benzoxazole (550 mg, 85%). The recrystalization from ethyl acetate-hexane gave colorless needles, mp 152-153° C.

reactant | 2-(2-thienyl)-5-benzoxazolylmethanol | 600 mg | S1C(=CC=C1)C=1OC2=C(N1)C=C(C=C2)CO | C12H9NO2S
reactant | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-chloromethyl-2-(2-thienyl) benzoxazole | 550 mg, 85% | ClCC=1C=CC2=C(N=C(O2)C=2SC=CC2)C1 | C12H8ClNOS
